US07741341B2
1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-(1-cyclopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid cyclopropylmethyl ester was prepared by a procedure according to example 69 starting from 589.0 mg (1.19 mmol) 1-[(5-chloro-pyridin-2-ylcarbamoyl)-methyl]-2-(1-cyclopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid and 1.92 mL (23.8 mmol) cyclopropyl-methanol.

reactant | 1-[(5-chloro-pyridin-2-ylcarbamoyl)-methyl]-2-(1-cyclopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid | 1.19 mmol, 589.0 mg | ClC=1C=CC(=NC1)NC(=O)CN1C(=NC2=C1C=CC=C2C(=O)O)C(NC2CCN(CC2)C2CC2)=O | C24H25ClN6O4
reactant | cyclopropyl-methanol | 23.8 mmol, 1.92 mL | C1(CC1)CO | C4H8O
product | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-(1-cyclopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid cyclopropylmethyl ester | C1(CC1)COC(=O)C1=CC=CC=2N(C(=NC21)C(NC2CCN(CC2)C2CC2)=O)CC(NC2=NC=C(C=C2)Cl)=O | C28H31ClN6O4
